US09353082B2
4-(3-(2H-tetrazol-5-yl)phenyl)-N-cyclohexyl-N-methyl-1H-imidazole-1-carboxamide
A stirred mixture of 4-(3-(2-benzyl-2H-tetrazol-5-yl)phenyl)-N-cyclohexyl-N-methyl-1H-imidazole-1-carboxamide (256 mg, 0.58 mmol), 10% palladium on carbon (30.9 mg, 0.029 mmol) and cyclohexene (1.175 ml, 11.6 mmol) was heated at 80° C. in a sealed tube. Then the reaction was cooled to room temperature, filtered through a celite pad and evaporated to dryness. The remaining oil was purified by chromatography over silica using a mixture of dichloromethane/methanol (90:10). Homogenous fractions were pooled and evaporated and the residual oil was crystallised from diethyl ether to give the product as an off-white powder, (45 mg, 21%).

reactant | 4-(3-(2-benzyl-2H-tetrazol-5-yl)phenyl)-N-cyclohexyl-N-methyl-1H-imidazole-1-carboxamide | 0.58 mmol, 256 mg | C(C1=CC=CC=C1)N1N=C(N=N1)C=1C=C(C=CC1)C=1N=CN(C1)C(=O)N(C)C1CCCCC1 | C25H27N7O
reactant | cyclohexene | 11.6 mmol, 1.175 ml | C1=CCCCC1 | C6H10
catalyst | palladium on carbon | 0.029 mmol, 30.9 mg | [Pd] | Pd
product | 4-(3-(2H-tetrazol-5-yl)phenyl)-N-cyclohexyl-N-methyl-1H-imidazole-1-carboxamide | 45 mg, 21% | N=1NN=NC1C=1C=C(C=CC1)C=1N=CN(C1)C(=O)N(C)C1CCCCC1 | C18H21N7O
